US04275071
3-(N-imidazolyl-acetyl)-durene (15/1323)
A mixture containing 2.55 g of 3-bromoacetyl-durene, prepared as described in Example 4, 3 ml of dimethylformamide and 3.40 g of imidazole, was stirred for 8 hours at 80° C. At the end of the reaction, the mixture was cooled to room temperature and 25 ml of water were added. The precipitate thus obtained was filtered off, dried and crystallized from benzene to give 1.5 g of the title compound. M.P. 176°-8° C., yield 62%.

reactant | 3-bromoacetyl-durene | 2.55 g | BrCC(=O)C1=C(C(C)=CC(=C1C)C)C | C12H15BrO
reactant | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
reactant | imidazole | 3.40 g | N1C=NC=C1 | C3H4N2
solvent | water | 25 ml | O | H2O
product | 3-(N-imidazolyl-acetyl)-durene | 1.5 g, yield 62% | N1(C=NC=C1)CC(=O)C1=C(C(C)=CC(=C1C)C)C | C15H18N2O
